US04929622
To a stirred solution of 6.81 g of cyanogen bromide, 4.7 ml of diisopropylethylamine, and 142 ml of chloroform was added, at room temperature with stirring, a solution of 13.7 g of 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 414 ml of chloroform. The mixture was heated at reflux for 2.6 hr, cooled to room temperature, diluted with aqueous sodium bicarbonate solution, and the layers were separated. The organic layer was washed with sodium bicarbonate solution. The combined aqueous layers were extracted with ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, and filtered. Concentration of the filtrate followed by purification by flash chromatography (silica gel, 2% triethylamine/ethyl acetate) afforded 13.5 g (95%) of 3-cyano-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine.

reactant | cyanogen bromide | 6.81 g | N#CBr | CBrN
reactant | diisopropylethylamine | 4.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroform | 142 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 13.7 g | CN1C2CC3=C1CCC1=C3C=CCN=CC1(C2C)C | C17H22N2
reactant | chloroform | 414 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-cyano-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 13.5 g, 95% | C(#N)N1C2CC3=C1CCC1=C3C=CCN=CC1(C2C)C | C17H19N3
